US07968556B2
SYNTHESIS OF 2-(3-HYDROXYPHENYL)-8-OXO-9-((TETRAHYDRO-2H-PYRAN-4-YL)METHYL)-8,9-DIHYDRO-7H-PURINE-6-CARBOXAMIDE
Methyl 2-(3-hydroxyphenyl)-8-oxo-9-((tetrahydro-2H-pyran-4-yl)methyl)-8,9-dihydro-7H-purine-6-carboxylate. Methyl 2-(3-(tert-butyldiphenylsilyloxy)phenyl)-8-oxo-9-((tetrahydro-2H-pyran-4-yl)methyl)-8,9-dihydro-7H-purine-6-carboxylate (0.202 g, 0.367 mmol) was dissolved in tetrahyrdrofuran (10 mL) and tetrabutylammonium fluoride on silica gel (0.294 g, 0.404 mmol) was added to the solution. The solution stirred at ambient temperature for two h. LCMS confirms product and no starting materials. The solution was filtered and condensed to give the crude title compound (0.110 g, 58%).

reactant | Methyl 2-(3-hydroxyphenyl)-8-oxo-9-((tetrahydro-2H-pyran-4-yl)methyl)-8,9-dihydro-7H-purine-6-carboxylate | OC=1C=C(C=CC1)C1=NC(=C2NC(N(C2=N1)CC1CCOCC1)=O)C(=O)OC | C19H20N4O5
reactant | Methyl 2-(3-(tert-butyldiphenylsilyloxy)phenyl)-8-oxo-9-((tetrahydro-2H-pyran-4-yl)methyl)-8,9-dihydro-7H-purine-6-carboxylate | 0.367 mmol, 0.202 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC=1C=C(C=CC1)C1=NC(=C2NC(N(C2=N1)CC1CCOCC1)=O)C(=O)OC | C35H38N4O5Si
solvent | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 2-(3-HYDROXYPHENYL)-8-OXO-9-((TETRAHYDRO-2H-PYRAN-4-YL)METHYL)-8,9-DIHYDRO-7H-PURINE-6-CARBOXAMIDE | 0.110 g, 58% | OC=1C=C(C=CC1)C1=NC(=C2NC(N(C2=N1)CC1CCOCC1)=O)C(=O)N | C18H19N5O4
